US07250440B2
1-(4-benzyloxyphenyl)-2-methyl-1H-indole-3-carbaldehyde
Phosphorous oxychloride (3 mL) was added to anhydrous dimethylformamide (6 mL) and the mixture was stirred at room temperature for 15 min. A mixture of 1-(4-benzyloxyphenyl)-2-methyl-1H-indole (0.94 g, 3 mmol) in dimethylformamide (10 mL) was added and the mixture heated to 80° C. for 18 hr. The reaction mixture was poured onto ice and adjusted to a pH of 7 by the addition of 2 N NaOH. The mixture was extracted with ethyl acetate (2×100 mL). The organic layer washed with water and brine and dried over MgSO4. Evaporation to provide the product as a dark solid. Purification by silica gel chromatography (10% EtOAC-hexanes) provided a white solid (63%): mp 150-152° C.; 1H NMR (DMSO-d6): δ 2.54 (3H, s), 5.22 (2H, s), 6.99 (1H, d, J=7.9 Hz), 7.17-7.42 (4H, m), 7.45-7.54 (7H, m), 8.17 (1H, d, J=7.5 Hz), 10.19 (1H, s); MS m/z (M+H)+ 342. Anal. for C23H19NO2: Calc'd: C, 80.92; H, 5.61; N, 4.10. Found: C, 80.76; H, 5.70; N, 3.93.

reactant | Phosphorous oxychloride | 3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(4-benzyloxyphenyl)-2-methyl-1H-indole | 3 mmol, 0.94 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C | C22H19NO
reactant | NaOH | 2 N | [OH-].[Na+]
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 1-(4-benzyloxyphenyl)-2-methyl-1H-indole-3-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)C | C23H19NO2
